US07666888B2
1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}-4-(trifluoromethyl)piperidine
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and 4-(trifluoromethyl)piperidine hydrochloride (9.2 mg, 0.060 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (8.5 mg). Calcd for C17H17F3N2O2: 338.1242, found 338.1238.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | 4-(trifluoromethyl)piperidine hydrochloride | 0.060 mmol, 9.2 mg | Cl.FC(C1CCNCC1)(F)F
product | 1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}-4-(trifluoromethyl)piperidine | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CCC(CC1)C(F)(F)F | C17H17F3N2O2
